US04289772
6,7-Dimethoxy-1-[4-hydroxypiperidino]phthalazine (0.81 g), n-propyl isocyanate (0.83 g), triethylamine (0.4 ml) and dry chloroform (20 ml) were heated together under reflux for 10 hours. The mixture was then cooled, treated with water (15 ml) and separated. The chloroform layer was shaken with 1 N sodium hydroxide (10 ml), dried (MgSO4) and evaporated in vacuo to give a yellow oil. The oil was dissolved in the minimum volume of chloroform and chromatographed on silica (bed size 3×27 cm). Elution was commenced with chloroform containing gradually increasing amounts of methanol (up to 10%). The first 800 mls of eluant were discarded then 14×70 ml fractions were collected. Appropriate fractions were selected by thin layer chromatography, combined and evaporated in vacuo to give a yellow oil. This oil was dissolved in the minimum volume of ethyl acetate, diluted with ether (30 ml), and acidified to pH 3 with saturated hydrogen chloride. The precipitated solid was collected and recrystallized from acetonitrile to give 6,7-dimethoxy-1-[4-(N-n-propylcarbamoyloxy)piperidino]phthalazine hydrochloride (0.32 g), m.p. 175°-180°.

reactant | 6,7-Dimethoxy-1-[4-hydroxypiperidino]phthalazine | 0.81 g | COC=1C=C2C=NN=C(C2=CC1OC)N1CCC(CC1)O | C15H19N3O3
reactant | n-propyl isocyanate | 0.83 g | C(CC)N=C=O | C4H7NO
reactant | triethylamine | 0.4 ml | C(C)N(CC)CC | C6H15N
reactant | hydrogen chloride | Cl | ClH
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ether | 30 ml | CCOCC | C4H10O
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 15 ml | O | H2O
product | 6,7-dimethoxy-1-[4-(N-n-propylcarbamoyloxy)piperidino]phthalazine hydrochloride | 0.32 g | Cl.COC=1C=C2C=NN=C(C2=CC1OC)N1CCC(CC1)OC(NCCC)=O | InChI=1S/C19H26N4O4.ClH/c1-4-7-20-19(24)27-14-5-8-23(9-6-14)18-15-11-17(26-3)16(25-2)10-13(15)12-21-22-18;/h10-12,14H,4-9H2,1-3H3,(H,20,24);1H
